* NPN Common Emitter Amplifier Circuit
VCC 2 0 DC 2.5V
Vin 1 0 AC 1V
R1 2 3 10k
R2 3 0 2k
RC 2 4 1k
? Missing component
Q1 4 3 5 NPN
.model NPN NPN (IS=1e-14 BF=100)
.tran 1u 10m
.end
